US06680338B2
Intermediate 4 Thioacetic acid S-(3-phenoxypropyl)ester
Prepared in the same manner as Intermediate 3 from 3-phenoxypropyl bromide (8 ml) and potassium thioacetate (7.01 g) to give the title compound (10.35 g) as an orange oil.

reactant | 3-phenoxypropyl bromide | 8 ml | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | potassium thioacetate | 7.01 g | C(C)(=S)[O-].[K+]
product | Thioacetic acid S-(3-phenoxypropyl)ester | 10.35 g | O(C1=CC=CC=C1)CCCSC(C)=O | C11H14O2S
